US06136844
N-{3-Methoxycarbonyl-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]phenyl}methanesulfonamide (735 mg, 1.54 mmol) and 2.5 N sodium hydroxide (2.5 ml) were dissolved in a 1:1 mixture of methanol-THF (40 ml) and stirred at room temperature for 64 h. The mixture was diluted with water, acidified to pH 2 with 2.0 N HCl, and extracted with ethyl acetate. The organic extracts were washed with brine, dried over sodium sulfate and concentrated to dryness. Crystallization from methylene chloride-methanol gave N-{3-carboxy-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]phenyl}-methanesulfonamide (500 mg, 70%) as a solid, mp 248-250° C. (dec.).

reactant | N-{3-Methoxycarbonyl-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]phenyl}methanesulfonamide | 1.54 mmol, 735 mg | COC(=O)C=1C=C(C=CC1CC=1N(C(=C(C1)C)C(C1=CC=C(C=C1)Cl)=O)C)NS(=O)(=O)C | C23H23ClN2O5S
reactant | sodium hydroxide | 2.5 N, 2.5 ml | [OH-].[Na+]
reactant | HCl | 2.0 N | Cl | ClH
solvent | methanol THF | 40 ml | CO.C1CCOC1
solvent | water | O | H2O
product | N-{3-carboxy-4-[5-(4-chlorobenzoyl)-1,4-dimethyl-1H-pyrrol-2-ylmethyl]phenyl}-methanesulfonamide | 500 mg, 70% | C(=O)(O)C=1C=C(C=CC1CC=1N(C(=C(C1)C)C(C1=CC=C(C=C1)Cl)=O)C)NS(=O)(=O)C | C22H21ClN2O5S
